US08389743B2
(4-Bromo-2-chloro-phenyl)-pyrrolidin-1-yl-methanone
4-Bromo-2-chloro-benzoic acid (30 g, 127.4 mmol) was placed in a 3 L round bottom flask and 1.5 L of EtOAc was transferred into it. Triethylamine (25.8 g, 255 mmol), pyrrolidine (18 g, 255 mmol), and T3P (48.6 g, 152.9 mmol, 50 wt % in EtOAc) were then added. After 1 hr, the reaction was quenched with 200 mL of 1N NaOH and stirred for 10 min. The layers were separated and after 2 more extractions of the aqueous phase with EtOAc (2×500 ml), the combined organic extracts were dried over MgSO4 and filtered. The filtrate was concentrated under reduced pressure to obtain a viscous oil. Flash chromatography using a 330 g ISCO™ column and 50%, 80% EtOAc/Hexanes yielded the title compound as a light yellow colored viscous oil (35.4 g, 96% yield). Rf=0.25 (50% EtOAc/Hexanes), LRMS m/z Calcd for C11H11BrClNO, 288.6, found, 289.9 (M+H) APCI; 1H-NMR (CDCl3) δ 7.56 (d, J=1.7 Hz, 1H), 7.43 (dd, J=1.7, 8.3 Hz, 1H), 7.17 (d, J=8.3 Hz, 1H), 3.63 (b apt t, J=6.6 Hz, 2H), 3.17 (B apt t, J=6.6 Hz, 2H), 2.00-1.84 (m, 4H). 13C-NMR (CDCl3) δ 166.0, 136.6, 132.6, 131.3, 130.7, 128.9, 123.3, 48.0, 45.8, 26.1, 24.7.

reactant | 4-Bromo-2-chloro-benzoic acid | 127.4 mmol, 30 g | BrC1=CC(=C(C(=O)O)C=C1)Cl | C7H4BrClO2
reactant | Triethylamine | 255 mmol, 25.8 g | C(C)N(CC)CC | C6H15N
reactant | pyrrolidine | 255 mmol, 18 g | N1CCCC1 | C4H9N
reactant | T3P | 152.9 mmol, 48.6 g | C(CC)P1(OP(OP(O1)(=O)CCC)(=O)CCC)=O | C9H21O6P3
solvent | EtOAc | 1.5 L | CCOC(=O)C | C4H8O2
product | (4-Bromo-2-chloro-phenyl)-pyrrolidin-1-yl-methanone | 35.4 g, 96% yield | BrC1=CC(=C(C=C1)C(=O)N1CCCC1)Cl | C11H11BrClNO
